US09035062B2
(2S,5R)-Benzyl 6-(benzyloxy)-7-oxo-1,6-diazabicyclo[3.2.1]octane-2-carboxylate (F1-3c)
94 mg (0.346 mmol) of (2S,5R)-6-(benzyloxy)-7-oxo-1,6-diazabicyclo[3.2.1]octane-2-carboxylic acid was dissolved in dichloromethane (3.4 mL), and 70 μL (0.676 mmol) of benzylalcohol and 98 mg (0.511 mmol) of 1-ethyl-3-(3-dimethylaminopropyl) carbodiimide hydrochloride were added, followed by stifling at room temperature for 24 hours. The reaction mixture was concentrated under reduced pressure, and subsequently the residue was diluted with ethyl acetate and washed with water and then with saturated brine. The organic layer was dried over anhydrous magnesium sulfate, and the solvent was concentrated under reduced pressure. The resulting residue was applied to silica gel column chromatography (hexane/ethyl acetate=3/1) to afford 41.2 mg of the title compound (yield 33%). Enantiomeric excess: 99.8% ee (CHIRALPAK AD-H, 4.6×150 mm, hexane/ethanol=2/1, UV 210 nm, flow rate 1 mL/min., retention time 33.2 min.).

reactant | (2S,5R)-6-(benzyloxy)-7-oxo-1,6-diazabicyclo[3.2.1]octane-2-carboxylic acid | 0.346 mmol, 94 mg | C(C1=CC=CC=C1)ON1[C@@H]2CC[C@H](N(C1=O)C2)C(=O)O | C14H16N2O4
reactant | benzylalcohol | 0.676 mmol, 70 μL | C(C1=CC=CC=C1)O | C7H8O
reactant | 1-ethyl-3-(3-dimethylaminopropyl) carbodiimide hydrochloride | 0.511 mmol, 98 mg | Cl.C(C)N=C=NCCCN(C)C
solvent | dichloromethane | 3.4 mL | ClCCl | CH2Cl2
product | (2S,5R)-Benzyl 6-(benzyloxy)-7-oxo-1,6-diazabicyclo[3.2.1]octane-2-carboxylate | 41.2 mg, yield 33% | C(C1=CC=CC=C1)ON1[C@@H]2CC[C@H](N(C1=O)C2)C(=O)OCC2=CC=CC=C2 | C21H22N2O4
